US07915250B2
6-{[2-(1,3-Dioxolan-2-ylmethyl)-1-oxa-5-azaspiro [2.3]hex-5-yl]carbonyl}-2,3-difluoro-N-(2-fluoro-4-iodophenyl)aniline (31 mg, 0.057 mmol) was dissolved in dimethylformamide (0.5 mL) and sodium azide (20 mg, 0.308 mmol) was added. The mixture was stirred at ambient for 22 h. The mixture was partitioned between ethyl acetate and 5% lithium chloride. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with water, brine, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 50% ethyl acetate in hexanes) gave 3-[1-azido-2-(1,3-dioxolan-2-yl)ethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (25 mg, 0.042 mmol, 74% yield): MS (EI) for C21H19F3IN5O4: 590 (MH+).

reactant | 6-{[2-(1,3-Dioxolan-2-ylmethyl)-1-oxa-5-azaspiro [2.3]hex-5-yl]carbonyl}-2,3-difluoro-N-(2-fluoro-4-iodophenyl)aniline | 0.057 mmol, 31 mg | O1C(OCC1)CC1OC12CN(C2)C(=O)C2=CC=C(C(=C2NC2=C(C=C(C=C2)I)F)F)F | C21H18F3IN2O4
reactant | sodium azide | 0.308 mmol, 20 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 3-[1-azido-2-(1,3-dioxolan-2-yl)ethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 0.042 mmol, 25 mg, 74% yield | N(=[N+]=[N-])C(CC1OCCO1)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C21H19F3IN5O4
